US04036983
Cyclohexylsulphinylpropionylferrocene
3-(Cyclohexylthio)propionylferrocene (1.3g, 0.00366M) was dissolved in chloroform (30 ml) and the solution was cooled in ice/water. m-Chlorobenzoic acid (0.63g, 0.00366M) was then added slowly with stirring. Following the addition, stirring was continued at room temperature for 3 hours, and the resulting solution was washed with dilute sodium bicarbonate solution and water, before being dried over anhydrous sodium sulphate. Removal of the solvent on a rotary evaporator yielded a red oil which subsequently crystallised as orange needles of the title compound (1.15g) mp = 90°-1°.

reactant | 3-(Cyclohexylthio)propionylferrocene | 0.00366M, 1.3g | C1(CCCCC1)SCCC(=O)[C-]1C=CC=C1.[CH-]1C=CC=C1.[Fe+2]
reactant | m-Chlorobenzoic acid | 0.00366M, 0.63g | ClC=1C=C(C(=O)O)C=CC1 | C7H5ClO2
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | Cyclohexylsulphinylpropionylferrocene | C1(CCCCC1)S(=O)CCC(=O)[C-]1C=CC=C1.[CH-]1C=CC=C1.[Fe+2] | InChI=1S/C14H19O2S.C5H5.Fe/c15-14(12-6-4-5-7-12)10-11-17(16)13-8-2-1-3-9-13;1-2-4-5-3-1;/h4-7,13H,1-3,8-11H2;1-5H;/q2*-1;+2
